US08003785B2
To a suspension of 0.50 g (0.0017 mole) of 2-chloro-9-cyclopentyl-7,7-difluoro-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-20), 0.50 g (0.0034 mole) of potassium carbonate and 10 mL of tetrahydrofuran was added 0.46 g (0.0020 mole) of trifluoro-methanesulfonic acid 2,2,2-trifluoro-ethyl ester. After stirring at 75 degrees for four hours, the mixture was cooled and water was added. The mixture was extracted with ethyl acetate twice. The combined organic layers were washed three times with sodium carbonate, three times with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with ethyl acetate-hexane (gradient, 100:0-30:70) gave 0.25 g of 2-chloro-9-cyclopentyl-7,7-difluoro-5-(2,2,2-trifluoro-ethyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-150)

reactant | 2-chloro-9-cyclopentyl-7,7-difluoro-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.0017 mole, 0.50 g | ClC=1N=CC2=C(N(CC(C(N2)=O)(F)F)C2CCCC2)N1 | C12H13ClF2N4O
reactant | potassium carbonate | 0.0034 mole, 0.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | trifluoro-methanesulfonic acid 2,2,2-trifluoro-ethyl ester | 0.0020 mole, 0.46 g | FC(COS(=O)(=O)C(F)(F)F)(F)F | C3H2F6O3S
solvent | water | O | H2O
product | 2-chloro-9-cyclopentyl-7,7-difluoro-5-(2,2,2-trifluoro-ethyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.25 g | ClC=1N=CC2=C(N(CC(C(N2CC(F)(F)F)=O)(F)F)C2CCCC2)N1 | C14H14ClF5N4O
